* C:\Users\michioto\AppData\Local\LTspice\amp_remake.asc
M1 N001 N001 VDD NC_01 pch l=10u w=40u m=2
M2 N002 N001 VDD NC_02 pch l=10u w=40u m=2
M3 N001 INM N003 NC_03 nch l=10u w=10u m=1
M4 N002 IMP N003 NC_04 nch l=10u w=10u m=1
M5 OUT N002 VDD NC_05 pch l=10u w=40u m=8
M6 OUT N004 VSS NC_06 nch l=10u w=10u m=4
M7 N003 N004 VSS NC_07 nch l=10u w=10u m=2
M8 N004 N004 VSS NC_08 nch l=10u w=10u m=4
R1 N004 VDD 36k
M9 NC_09 NC_10 NC_11 NC_12 pch l=10u w=40u m=1
M10 NC_13 NC_14 NC_15 NC_16 pch l=10u w=40u m=1
M11 NC_17 NC_18 NC_19 NC_20 pch l=10u w=40u m=1
M12 NC_21 NC_22 NC_23 NC_24 pch l=10u w=40u m=1
M13 NC_25 NC_26 NC_27 NC_28 nch l=10u w=10u m=1
M14 NC_29 NC_30 NC_31 NC_32 nch l=10u w=10u m=1
M15 NC_33 NC_34 NC_35 NC_36 nch l=10u w=10u m=1
M16 NC_37 NC_38 NC_39 NC_40 nch l=10u w=10u m=1
R11 NC_41 NC_42 3.6k
R12 NC_43 NC_44 3.6k
R13 NC_45 NC_46 3.6k
R14 NC_47 NC_48 3.6k
R15 NC_49 NC_50 3.6k
R16 NC_51 NC_52 3.6k
R17 NC_53 NC_54 3.6k
R18 NC_55 NC_56 3.6k
R19 NC_57 NC_58 3.6k
R20 NC_59 NC_60 3.6k
R21 NC_61 NC_62 3.6k
R22 NC_63 NC_64 3.6k
R23 NC_65 NC_66 3.6k
R24 NC_67 NC_68 3.6k
R25 NC_69 NC_70 3.6k
R26 NC_71 NC_72 3.6k
R27 NC_73 NC_74 3.6k
R28 NC_75 NC_76 3.6k
R29 NC_77 NC_78 3.6k
R30 NC_79 NC_80 3.6k
R31 NC_81 NC_82 3.6k
R32 NC_83 NC_84 3.6k
C1 N002 OUT 1.656p
C2 NC_85 NC_86 0.414p
C3 NC_87 NC_88 0.414p
C4 NC_89 NC_90 0.414p
C5 NC_91 NC_92 0.414p
C6 NC_93 NC_94 0.414p
C7 NC_95 NC_96 0.414p
C8 NC_97 NC_98 0.414p
C9 NC_99 NC_100 0.414p
C10 NC_101 NC_102 0.414p
C11 NC_103 NC_104 0.414p
C12 NC_105 NC_106 0.414p
C13 NC_107 NC_108 0.414p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\michioto\AppData\Local\LTspice\lib\cmp\standard.mos
.include "C:\Users\michioto\KLayout\salt\ICPS2023_5\Technology\tech\models\SOI_CMOS"
.backanno
.end
